US04063019
By reacting 10.60 g. of DL-α-isocyanato-2-thiopheneacetic acid, ethyl ester with 5.75 g. of 1-amino-2,4-dioxoimidazolidine in 250 ml. of dioxane according to the procedure of Example 5, 15.6 g. of DL-α-[[[(2,4-dioxo-1-imidazolidinyl)-amino]carbonyl]amino]-2-thiopheneacetic acid, ethyl ester is obtained, m.p. 151°-155°.

reactant | α-isocyanato-2-thiopheneacetic acid, ethyl ester | N(=C=O)C(C(=O)OCC)C=1SC=CC1 | C9H9NO3S
reactant | 1-amino-2,4-dioxoimidazolidine | NN1C(NC(C1)=O)=O | C3H5N3O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | α-[[[(2,4-dioxo-1-imidazolidinyl)-amino]carbonyl]amino]-2-thiopheneacetic acid, ethyl ester | O=C1N(CC(N1)=O)NC(=O)NC(C(=O)OCC)C=1SC=CC1 | C12H14N4O5S
